US04032652
o-Phenylenediamine (2.1 g., 0.02 m.) is added to a hot solution of 4.2 g. (0.02 m.) of 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one in methanol and the resulting mixture is refluxed for two hours. The reaction mixture is cooled and filtered to yield 5-acetyl-3-[1-(o-aminophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione, m.p. 179°-181° C.

reactant | o-Phenylenediamine | 2.1 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3,5-diacetyl-4,6-dihydroxy-2H-pyran-2-one | C(C)(=O)C=1C(OC(=C(C1O)C(C)=O)O)=O | C9H8O6
solvent | methanol | CO | CH4O
product | 5-acetyl-3-[1-(o-aminophenylamino)ethylidene]-4-hydroxy-2H-pyran-2,6(3H)-dione | C(C)(=O)C1=C(C(C(OC1=O)=O)=C(C)NC1=C(C=CC=C1)N)O | C15H14N2O5
